Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Ciprofloxacin Hcl
 
Attending: ___.
 
Chief Complaint:
overdose
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Mr. ___ is a ___ gentleman with h/o HTN and depression 
who was found minimally responsive in his home today.

History is obtained from the records and from the report of 
patient's sister and niece.

The night prior to admission, Mr. ___ called his sister in 
___ around 8pm on ___.  He sounded very down, stating his 
"whole world is falling down" around him and "I don't know if I 
wanna make it day to day."  He has had longstanding problems 
with depression, but the stress in his life has recently 
increased given the recent bankruptcy of his ___ 
business and divorce with his wife.  She convinced him to make 
an appointment with his psychiatrist for the following day.

Despite many attempts to reach him the next day, she could not 
get through.  She contacted the psychiatrist, who told her that 
Mr. ___ had not shown to his appointment.  She therefore 
got her daughter, who lives in the ___ area, to stop by his 
apartment.  She found the patient around 8pm on ___, lying on 
the floor of his apartment next to a broken glass table.  His 
skin was blue and he opened his eyes to touch.

Upon arrival of EMS, VS were 124/70   80   9   100% on 15L   BS 
89.  GCS was 8.  He received 2mg of IV narcan with improvement 
in his mental status and respiratory rate.
  
In the ED, initial VS were:   97.2   152/96   85   24   97%.  He 
was awake enough to provide some history and admitted to 
suicidal attempt.  Various notes state he may have taken valium, 
percocet, diovan, vicodin, and/or trazodone.  Pupils were small 
and minimally reactive.  He was started on N-acetylcysteine upon 
arrival to the ED.  He also received 3L of LR and IV narcan.  
Prior to transfer to the ___, he was started on a narcan 
gtt.  He was seen by toxicology, who recommended overnight 
acetylcysteine and will follow him in the morning.

Upon arrival to the ICU, he was snoring but would awake and 
answer yes or no questions briefly.  He could follow simple 
commands.  He stated the ingestion was ___.
 
Past Medical History:
Hypertension
Hyperlipidemia
CKD with baseline Cr 2.0, single kidney s/p left nephrectomy at 
age ___ for non-functioning kidney
Hypothyroidism
Depression, no prior suicide attempt (per sister)
___ Cancer 
Migraine headache
Pericarditis (remote)
Sexual dysfunction, s/p penile prosthesis implant
s/p left herniorrhaphy in ___
h/o Angina reported in chart but had normal ETT in ___
Prediabetes

PCP:  ___ ___
Psychiatrist:  ___ ___ (for emergency: 
___
 
Social History:
___
Family History:
Mother died from complications of obesity at age ___. Father 
committed suicide at age ___. 
 
Physical Exam:
VITALS: T 95.2 BP 94/55 HR 74 RR 10 98% on RA
GENERAL: Somnolent male, snoring but arousable.  
HEENT: Normocephalic, atraumatic, wearing ___ J. No 
conjunctival pallor. No scleral icterus. Pupils constricted but 
equally round and reactive to light. Patient opens eyes to 
verbal and tactile stimuli and tracks appropriately.  No 
nystagmus.  EOMI.  MM dry.  
CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, 
rubs or ___. JVP about 8cm, difficult to assess due to neck 
collar.
LUNGS: Rhonchorous bilaterally with concurrent significant upper 
airway noise, equal and good air movement bilaterally.  
ABDOMEN: NABS. Soft, NT, ND. No HSM
EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis.  
SKIN:  Abrasion on right elbow.  
NEURO:  Responds appropriately to yes/no questions, follows 
simple commands.  Moves all 4 extremities spontaneously and to 
commands.  Brisk reflexes bilaterally, with 3+ biceps reflex. 
 
Pertinent Results:
EKG:  NSR at 74 with normal axis and intervals (PR 150, QRS 100, 
QTc 384). Normal R wave progression, no evidence of acute 
ischemia.

Baseline labs from end of ___:
LFTs normal earlier this month
WBC 11 at baseline
Hct 46 at baseline
Cr baseline 1.8
A1C is 6.2 (prediabetic)
TSH 0.89

LABS:
WBC 13.8
Hgb 14.7
Hct 44.9
Plt 403

Na 138
K 6.4 (repeat that was not hemolyzed 5.6)
Cl 97
HCO3 27
BUN 50
Crt 4.0
Gluc 102
Ca 9.9
Mg 3.1
Phos 8.5
CK 359
MB 6
Trop 0.01

AST 36
ALT 26
Alk Phos 53
T Bili 0.3
Lipase 48

Serum Acetaminophen 43.9
Serum benzo positive
Serum ASA, EtOH, Barb, Tricy - Negative
  
Lactate 2.2

STUDIES:  
CT C-spine ___: 
No evidence of acute fracture. Multilevel degenerative changes.

CT Head ___:  No acute intracranial hemorrhage.
 
Brief Hospital Course:
___ gentleman with h/o depression admitted with somnolence and 
respiratory depression in the setting of ingestion of multiple 
medications.
  
# Overdose / Altered Mental Status: Initially with GCS of 8. 
Possible ingestions include Tylenol, narcotic (hydrocodone or 
oxycodone), benzodiazepine, trazodone, valsartan, or other. 
Initially there was concern for tylenol toxicity but his level 
rapidly decreased.  Valsartan less likely as he was not been 
hypotensive or tachycardic. Narcan drip was stopped on ___ as 
did not appear to have much clinical effect. He was followed by 
toxicology. His mental status slowly improved with time. His 
home cymbalta, trazadone, zolpidem, neurontin, and alprazolam 
were held.

# Depression with suicide attempt:  Psychiatry was cosulted and 
it was determined that patient had actively tried to commit 
suicide and had planned for it.  Was provided a 1:1 sitter and 
is transferred to inpatient psychiatry on discharge for further 
treatment.

# Acute renal failure on CKD: Of note, patient has only single 
kideny.  Baseline Cr 1.8-2.0. Initially in ARF but this improved 
to baseline with ivf. 

# Benign hypertension: Home regimen held initially due to 
hypotension, restarted on lower dose ___ for renal protection as 
BP improved. He should be transitioned to his home medications 
as his blood pressure tolerates/as an outpatient. Please ensure 
that he has an appointment with his primary care doctor within 
one week of discharge from inpatient psychiatric facility. 

# Hypothyroidism: Continued on home dose of levothyroxine. 
  
# Hyperlipidemia: His statin was resumed once LFT's normalized.
 
Medications on Admission:
SL NTG
Vicodin ___ for pain and headache (average ___ on a day)
Diovan-HCTZ 160/12.5 in AM and diovan 160 HS at night
Protonix
Ambien 10mg HS
Trazodone 50mg HS
Cymbalta 60mg daily
Viagra prn
Simvastatin 20mg daily
Neurontin 100mg at dinner and 200mg HS
Alprazolam prn
Synthroid ___ daily
ASA 81mg daily
MVI daily
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.  
2. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.  
3. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
4. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
5. Levothyroxine 75 mcg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
6. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Valsartan 80 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
8. Camphor-Menthol 0.5-0.5 % Lotion Sig: One (1) Appl Topical 
QID (4 times a day) as needed for itching.  

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
Primary: Toxic ingestion, depression, suicide attempt.
Secondary: Benign hypertension, chronic kidney disease stage 
III, hypothyroidism.

 
Discharge Condition:
Stable vital signs, ambulating without difficulty, improved 
mentation.

 
Discharge Instructions:
You were admitted after an intentional overdose. Your mental 
status slowly improved. 

Please keep all follow up appointments and take all medications 
as prescribed.
 
Followup Instructions:
___